US05607950
2-(3-Carbamoyl-3,3-diphenylpropyl)pyridine
A solution of 2-(3-cyano-3,3-diphenylpropyl)pyridine (5.0 g, 16.8 mmol) (prepared as described in U.S. Pat. No. 2,649,455) in 90% sulphuric acid (10 ml) was heated at 95° C. for 3.5 hours, allowed to cool to room temperature, poured onto ice and basified with 5M aqueous sodium hydroxide solution. The resulting precipitate was collected, washed with water, dried and recrystallised from 2-propanol to give the title compound (4.5 g, 85%) as colourless crystals, m.p. 145°-146° C.

reactant | 2-(3-cyano-3,3-diphenylpropyl)pyridine | 16.8 mmol, 5.0 g | C(#N)C(CCC1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18N2
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(3-Carbamoyl-3,3-diphenylpropyl)pyridine | 4.5 g, 85% | C(N)(=O)C(CCC1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20N2O
